US07446199B2
5-Bromo-1H-pyrrolo[2,3-b]pyridine-3-carbothioic Acid (2,3-difluoro-phenyl)-amide
To a solution of 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (2,3-difluoro-phenyl)-amide (300 mg, 0.85 mmol) in toluene (6 mL) was added Lawesson's reagent (210 mg, 0.52 mmol). The suspension was heated under reflux for 14 h. The solvent was removed by evaporation and the residue was dried on the pump for the next reaction. MS (ES+): m/e=368 (M+H); LC: 3.6 min.

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (2,3-difluoro-phenyl)-amide | 0.85 mmol, 300 mg | FC1=C(C=CC=C1F)NC(=O)C1=CNC2=NC=C(C=C21)Br | C14H8BrF2N3O
reactant | Lawesson's reagent | 0.52 mmol, 210 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-1H-pyrrolo[2,3-b]pyridine-3-carbothioic Acid (2,3-difluoro-phenyl)-amide | FC1=C(C=CC=C1F)NC(=S)C1=CNC2=NC=C(C=C21)Br | C14H8BrF2N3S
